* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
R_R4         0 $N_0002  1k  
R_R1         $N_0003 $N_0001  10k  
R_R2         $N_0003 $N_0001  10k  
V_V1         $N_0003 0 12V
